US03931167
B. 6β,7α-Dimethanesulfonyloxy-4-androstene-3,17-dione
In a manner similar to that described in Example 1C, treat 6β,7α-dihydroxy-4-androstene-3,17-dione (150 mg.) in pyridine (5 ml.) with methanesulfonyl chloride (1 ml.) for two hours at room temperature. Isolate the resultant product in a manner similar to that described in Example 1C to obtain 180 mg. of 6β,7α-dimethanesulfonyloxy-4-androstene-3,17-dione which is used without further purification in the following step 31C.

reactant | 6β,7α-dihydroxy-4-androstene-3,17-dione | 150 mg | O[C@@H]1[C@H]([C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O)O | C19H26O4
reactant | methanesulfonyl chloride | 1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6β,7α-Dimethanesulfonyloxy-4-androstene-3,17-dione | CS(=O)(=O)O[C@@H]1[C@H]([C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O)OS(=O)(=O)C | C21H30O8S2
